US04430339
(a) 2-(6-Cyclopentylhexyl)-oxirane-2-carboxylic acid ethyl ester
5.33 g of the title compound, in the form of a nearly colourless oil, which is purified by chromatography on silica gel (migrating agent: 90:10 petroleum ether/ethyl acetate), are obtained by the procedure described in Example (1a) from 11.4 g of 8-cyclopentyl-2-methyleneoctanoic acid ethyl ester and 15.6 g of m-chloroperbenzoic acid in 120 ml of methylene chloride

reactant | 8-cyclopentyl-2-methyleneoctanoic acid ethyl ester | 11.4 g | C(C)OC(C(CCCCCCC1CCCC1)=C)=O | C16H28O2
reactant | m-chloroperbenzoic acid | 15.6 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
product | 2-(6-Cyclopentylhexyl)-oxirane-2-carboxylic acid ethyl ester | C(C)OC(=O)C1(OC1)CCCCCCC1CCCC1 | C16H28O3
